US08293909B2
3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid.
NBS (125 mg, 0.702 mmol) was added to a stirred suspension of 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid (215 mg, 0.645 mmol) in THF (5 mL)/DMF (1 mL). The solids dissolved and the reaction was stirred at room temperature for 30 min, then quenched with 10% Na2S2O3, and acidified with 1 N HCl. The solvent was evaporated and the material was diluted with water, filtered and dried to afford a mixture of starting material and product. The material was resubjected to the reaction conditions (80 mg of NBS in 3 mL THF/0.5 mL DMF). After 3 h, the reaction was quenched by the addition of 10% Na2S2O3, and the solution was acidified with 0.1 N HCl. The volatiles were removed and the resulting off-white precipitate was collected by filtration, rinsed with water and Et2O, and air-dried to afford the expected product 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid (140 mg, 53% yield) as an off-white powder consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (1H, d, J=2.26 Hz), 8.27-8.33 (2H, m), 8.19-8.26 (2H, m), 8.05-8.12 (1H, m), 8.03 (1H, d, J=7.78 Hz), 7.68 (1H, t, J=7.78 Hz), 7.45-7.55 (2H, m). LC-MS retention time: 1.20 min; m/z (MH+): 412, 414. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | NBS | 0.702 mmol, 125 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.645 mmol, 215 mg | FC1=CC=C(C=C1)C1=CC=2C(=NC=C(C2)C=2C=C(C(=O)O)C=CC2)O1 | C20H12FNO3
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | NBS | 80 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 140 mg, 53% yield | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2)C2=CC=C(C=C2)F | C20H11BrFNO3
